US07951811B2
A mixture of methanesulfonic acid 2-{1-[1-(4-bromo-2,6-dimethyl-phenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]-piperidin-4-yl}-ethyl ester (0.70 g) and NaI (0.59 g) in acetone (14 mL) was heated at reflux for 3 hours. After cooling to room temperature, water was added and the mixture was extracted with ethyl acetate. The organic phase was washed with water, dried over Na2SO4 and filtered. The filtrate was concentrated under reduced pressure. The residue was purified with column chromatography (silica gel: Wako gel C200, eluent: hexane:ethyl acetate=10/1) to obtain 1-(4-bromo-2,6-dimethyl-phenyl)-4-[4-(2-iodo-ethyl)-piperidin-1-yl]-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridine (0.65 g) as a white crystal.

reactant | methanesulfonic acid 2-{1-[1-(4-bromo-2,6-dimethyl-phenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]-piperidin-4-yl}-ethyl ester | 0.70 g | BrC1=CC(=C(C(=C1)C)N1C=C(C=2C1=NC(=CC2N2CCC(CC2)CCOS(=O)(=O)C)C)C)C | C25H32BrN3O3S
reactant | NaI | 0.59 g | [Na+].[I-]
reactant | water | O | H2O
solvent | acetone | 14 mL | CC(=O)C | C3H6O
product | 1-(4-bromo-2,6-dimethyl-phenyl)-4-[4-(2-iodo-ethyl)-piperidin-1-yl]-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridine | 0.65 g | BrC1=CC(=C(C(=C1)C)N1C=C(C=2C1=NC(=CC2N2CCC(CC2)CCI)C)C)C | C24H29BrIN3
